US04188395
2-Acetoxymethyl-6-methyl-4-(2'-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
A solution of 6.8 g of 2-methoxy-benzaldehyde, 9.4 g of γ-acetoxyacetoacetic acid ethyl ester and 6.5 g of β-aminocrotonic acid ethyl ester in 40 ccs of ethanol is heated to the boil overnight and then cooled. After filtering, light yellow crystals of melting point 84°-86° C. are obtained.

reactant | 2-methoxy-benzaldehyde | 6.8 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | γ-acetoxyacetoacetic acid ethyl ester | 9.4 g | C(C)OC(CC(=O)COC(C)=O)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Acetoxymethyl-6-methyl-4-(2'-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)OC)C(=O)OCC)C)COC(C)=O | C22H27NO7
